* C:\Users\anshuman\Desktop\TVS Internship\LTSpice Simulations\Class-B.asc
Q1 N001 N003 N005 0 2N3055
Q2 N007 N006 N005 0 D45H11
D1 N003 N004 D
D2 N004 N006 D
R1 N001 N003 1.2k
R2 N006 N007 700
C1 N003 N002 20µ
C2 N006 N002 20µ
R3 0 N005 1k
V1 N001 0 12
V2 N002 0 SINE(0 1 10kHz)
.model D D
.lib C:\Users\anshuman\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\anshuman\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 1m 0 100u
.backanno
.end
