* C:\Users\anshuman\Desktop\TVS Internship\LTSpice Simulations\Last weekend try.asc
R1 N001 N006 5k
R2 N006 0 2k
R4 N007 0 3
C1 N007 0 100p
C2 N006 N005 20µ
V1 N005 0 SINE(0 0 1k)
Q1 N004 N006 N007 0 2N3904
D1 N002 P001 1N4148
D2 P001 N004 1N4148
R6 N003 0 8
V3 N001 0 12
R3 N001 N002 8
Q2 0 N004 N003 0 2SAR553P
Q3 N001 N002 N003 0 2SCR553P
.model D D
.lib C:\Users\anshuman\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\anshuman\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 10m 0 100u
.backanno
.end
